US04119667
Preparation of 3,4-Dichloro-N-benzylideneaniline
Equimolar amounts of 3,4-dichloroaniline and benzaldehyde are stirred together at room temperature to give a nearly quantitative yield of product that melts at 62°-5° C. upon recrystallization from ethanol.

reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 3,4-Dichloro-N-benzylideneaniline | quantitative yield | ClC=1C=C(N=CC2=CC=CC=C2)C=CC1Cl | C13H9Cl2N
